US06472386B1
Synthesis of N,N′-bis[[2-(3,4,5-Trimethoxyphenyl)thiazol-4-yl]methyl]piperazine
4-Chloromethyl-2-(3,4,5-trimethoxyphenyl)thiazole (240 mg) and piperazine (34 mg) were dissolved in DMF (3 mL), potassium carbonate (166 mL) and potassium iodide (166 mg) were added to the solution, and the mixture was stirred at room temperature for 5 hours. After concentrating the reaction mixture under reduced pressure, chloroform was added to the residue, and the mixture was washed with water and saturated brine, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (chloroform:methanol=40:1) to obtain the title compound as a free base.

reactant | 4-Chloromethyl-2-(3,4,5-trimethoxyphenyl)thiazole | 240 mg | ClCC=1N=C(SC1)C1=CC(=C(C(=C1)OC)OC)OC | C13H14ClNO3S
reactant | piperazine | 34 mg | N1CCNCC1 | C4H10N2
reactant | potassium carbonate | 166 mL | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 166 mg | [I-].[K+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | N,N′-bis[[2-(3,4,5-Trimethoxyphenyl)thiazol-4-yl]methyl]piperazine | COC=1C=C(C=C(C1OC)OC)C=1SC=C(N1)CN1CCN(CC1)CC=1N=C(SC1)C1=CC(=C(C(=C1)OC)OC)OC | C30H36N4O6S2
